US09422331B2
A solution of (2S,3S)-benzyl 3-azido-2-(tert-butoxycarbonylamino)butanoate (1.7 g, 5.08 mmol) and PdC (5%, wet) (340 mg, 319 μmol) in MeOH (16.4 g, 20.7 ml) was shaken under H2 (50 PSI) for 3.5 h, then filtered through a bed of celite and concentrated to give (2S,3S)-3-amino-2-(tert-butoxycarbonylamino)butanoic acid (1.15 g, quant.) as a white solid.

reactant | (2S,3S)-benzyl 3-azido-2-(tert-butoxycarbonylamino)butanoate | 5.08 mmol, 1.7 g | N(=[N+]=[N-])[C@H]([C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C | C16H22N4O4
solvent | MeOH | 20.7 ml, 16.4 g | CO | CH4O
product | (2S,3S)-3-amino-2-(tert-butoxycarbonylamino)butanoic acid | 1.15 g | N[C@H]([C@@H](C(=O)O)NC(=O)OC(C)(C)C)C | C9H18N2O4
